US07279561B1
To a solution of biotin (0.83 g, 3.4 mmol) in 60 mL of DMF was added glycine t-butyl ester hydrochloride (0.57 g, 3.4 mmol), N-methylmorpholine (0.92 mL, 8.36 mmol), 1-hydroxybenzotriazole (0.61 g, 3.99 mmol) and 1-(3-Dimethylaminopropyl)-3-ethylcarbo-diimde hydrochloride (0.65 g, 3.4 mmol). The reaction mixture was stirred at room temperature for 7 days. The DMF was concentrated, ethyl acetate was added, and the organic layer was washed with water, 0.5 N HCl, saturated sodium bicarbonate, and brine. The ethyl acetate layer was dried (MgSO4) and concentrated to yield tert-butylglycylbiotin as a white solid which was primarily one spot on TLC (0.611 g, 1.71 mmol, 50%). Mass spec [M+H]+ at m/z 358.

reactant | biotin | 3.4 mmol, 0.83 g | OC(=O)CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | C10H16N2O3S
reactant | glycine t-butyl ester hydrochloride | 3.4 mmol, 0.57 g | Cl.C(C)(C)(C)OC(CN)=O
reactant | N-methylmorpholine | 8.36 mmol, 0.92 mL | CN1CCOCC1 | C5H11NO
reactant | 1-hydroxybenzotriazole | 3.99 mmol, 0.61 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | tert-butylglycylbiotin | N[C@@H](C(C)(C)C)C(=O)C(C(O)=O)CCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | C16H27N3O4S
